US05538976
To a suspension of 40 mg of sodium hydride in 2 ml of N,N-dimethylformamide was added 0.22 g of 5-[(4-nitrophenyl)amino]pyrimidine in small portions. After stirring at room temperature for 30 minutes, 0.24 g of 4-trifluoromethylbenzyl bromide was added thereto, followed by stirring at room temperature for 2 hours. The solvent was distilled off under reduced pressure, water was added to the residue, and the mixture was extracted with chloroform. The chloroform layer was washed with water and dried over anhydrous magnesium sulfate. The solvent was distilled off, and the residue was purified by silica gel column chromatography to recover crude crystals from the chloroform eluate. Recrystallization of the crude crystals from a mixed solvent of ethyl acetate and ethyl ether yielded 0.19 g of 5-[N-(4-nitrophenyl)-N-(4trifluoromethylbenzyl)amino]pyrimidine.

reactant | sodium hydride | 40 mg | [H-].[Na+]
reactant | 5-[(4-nitrophenyl)amino]pyrimidine | 0.22 g | [N+](=O)([O-])C1=CC=C(C=C1)NC=1C=NC=NC1 | C10H8N4O2
reactant | 4-trifluoromethylbenzyl bromide | 0.24 g | FC(C1=CC=C(CBr)C=C1)(F)F | C8H6BrF3
solvent | N,N-dimethylformamide | 2 ml | CN(C=O)C | C3H7NO
product | 5-[N-(4-nitrophenyl)-N-(4trifluoromethylbenzyl)amino]pyrimidine | 0.19 g | [N+](=O)([O-])C1=CC=C(C=C1)N(CC1=CC=C(C=C1)C(F)(F)F)C=1C=NC=NC1 | C18H13F3N4O2
